US04818756
Preparation of 2-(3-bromopropyl)-7-methoxy-1,2,4-benzothiadiazin-3(4H)one 1,1-dioxide
0.03 mol of 7-methoxy-1,2,4-benzothiadiazin-3(4H)one 1,1-dioxide is dissolved in 50 ml of absolute DMF, and 0.03 mol of sodium hydride is added. After 15 minutes, formation of the sodium salt was complete. The 0.06 mol of 1,3-dibromopropane is added dropwise and the mixture is heated at 80° C. for 2 hours. The solvent is then distilled out and the residue is purified by column chromatography on silica gel. The eluting agent used was a mixture of CH2Cl2 /CH3OH (98:2).

reactant | 7-methoxy-1,2,4-benzothiadiazin-3(4H)one 1,1-dioxide | 0.03 mol | COC1=CC2=C(NC(NS2(=O)=O)=O)C=C1 | C8H8N2O4S
reactant | sodium hydride | 0.03 mol | [H-].[Na+]
reactant | sodium | [Na] | Na
reactant | 1,3-dibromopropane | 0.06 mol | BrCCCBr | C3H6Br2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-(3-bromopropyl)-7-methoxy-1,2,4-benzothiadiazin-3(4H)one 1,1-dioxide | BrCCCN1S(C2=C(NC1=O)C=CC(=C2)OC)(=O)=O | C11H13BrN2O4S
